US08686048B2
Intermediate 20: 2′,3-dichloro-5-fluorobiphenyl-4-amine
The title compound (0.260 g) was prepared from 4-bromo-2-chloro-6-fluoroaniline (0.5 g, 2.4 mmol) and 2-chlorophenylboronic acid (0.453 g, 2.9 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.60 (d, J 7.3, 1H), 7.42-7.31 (m, 3H), 7.18-7.11 (m, 2H), 5.6 (s, 2H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 2.4 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 2-chlorophenylboronic acid | 2.9 mmol, 0.453 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 2′,3-dichloro-5-fluorobiphenyl-4-amine | 0.260 g | ClC1=C(C=CC=C1)C1=CC(=C(C(=C1)F)N)Cl | C12H8Cl2FN
